US06833380B2
Preparation of 4-Thiocyanato-5,6,7,8-tetrahydro-naphthalen-1-ol (compound 2A)
5,6,7,8-Tetrahydro-naphthalen-1-ol (1 g, 6.8 mmol) was dissolved in 25 ml MeOH. Sodium thiocyanate (1.76 g, 22 mmol) and sodium bromide (0.7 g, 6.8 mmol) were added and stirred for 5 minutes at ambient temperature. Bromine (1.2 g, 7.48 mmol) was added drop wise over 5 minutes. The orange solution was allowed to stir two hours. Brine was added and the crude product was extracted twice into ethyl acetate. The combined organic extracts were washed once with brine, dried over anhydrous sodium sulfate, decanted and concentrated. Normal phase chromatography afforded the title product, 1.28 g, 92%. 400 MHz 1H NMR (DMSO-d6) δ 11.1 (s, 1H), 7.40 (d, 1H, J=8.8 Hz), 6.61 (d, 1H, 8.8 Hz), 2.78 (m, 2H), 2.59 (m, 2H), 1.70 (m, 4H). MS m/z 278 (m+1)

reactant | 5,6,7,8-Tetrahydro-naphthalen-1-ol | 6.8 mmol, 1 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | Sodium thiocyanate | 22 mmol, 1.76 g | [S-]C#N.[Na+]
reactant | sodium bromide | 6.8 mmol, 0.7 g | [Br-].[Na+]
reactant | Bromine | 7.48 mmol, 1.2 g | BrBr | Br2
solvent | MeOH | 25 ml | CO | CH4O
solvent | Brine | [Cl-].[Na+].O
product | 4-Thiocyanato-5,6,7,8-tetrahydro-naphthalen-1-ol | S(C#N)C1=CC=C(C=2CCCCC12)O | C11H11NOS
